US03996230
In the manner given in Example 1, 1-bromo-8-(trifluoromethyl)-4-ethyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated with excess of piperazine to give 8-(trifluoromethyl)-4-ethyl-1-piperazino-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1-bromo-8-(trifluoromethyl)-4-ethyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC1=NN=C2N1C1=C(C(=NC2CC)C2=NC=CC=C2)C=C(C=C1)C(F)(F)F | C18H13BrF3N5
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(trifluoromethyl)-4-ethyl-1-piperazino-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NC(C=3N2C(=NN3)N3CCNCC3)CC)C3=NC=CC=C3)C1)(F)F | C22H22F3N7
